US08975415B2
Under an argon atmosphere, to a mixture of 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] (504 mg, 1.71 mmol), silver cyanate (384 mg, 2.56 mmol) and EtOAc-MeCN (1:1, 5.0 mL) was added iodine (649 mg, 2.56 mmol) over 5 minutes in an ice-water bath. After stirring for 30 minutes at the same temperature, the mixture was filtered through celite pad. The filtrate was washed with saturated aqueous Na2S2O3 and brine, dried over MgSO4 and filtered. After concentration of the filtrate at reduced pressure, the residue was dissolved in THF (5.0 mL). The solution was added to 2 M EtOH solution of ammonia (10.7 mL, 21.4 mmol) in an ice-water bath. The mixture was stirred for 1 hour in the bath and 3 hours at 70° C. After cooling down to ambient temperature, NH-silica gel was added to the reaction mixture, and the mixture was concentrated at reduced pressure. The residue was purified with column chromatography on silica gel (CHCl3-EtOH, a linear gradient of EtOH from 0 to 20%) to afford 6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine (483 mg).

reactant | 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] | 1.71 mmol, 504 mg | BrC=1C=C2C(C3(COC3)C(OC2=CC1)(C)C)=C | C14H15BrO2
reactant | EtOAc MeCN | 5.0 mL | CCOC(=O)C.CC#N
reactant | iodine | 2.56 mmol, 649 mg | II | I2
reactant | ammonia | 21.4 mmol, 10.7 mL | N | H3N
catalyst | silver cyanate | 2.56 mmol, 384 mg | [Ag]OC#N
solvent | EtOH | 2 M | CCO | C2H6O
product | 6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine | 483 mg | BrC=1C=C2C3(N=C(OC3)N)C3(COC3)C(OC2=CC1)(C)C | C15H17BrN2O3
